Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
pericardial effusion with tamponade 
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization- ___
Pericardiocentesis- ___
 
History of Present Illness:
___ year-old woman presents with 2 days of chest pain with 
persistent pain x 4 hours today. No prior cardiac history. IN ED 
she developed acute shortness of breath. 

Per ___ chart, ED physician "was handed an EKG regarding 
the patient triaged, and immediately went to triage to meet 
speak with the patient. She is a ___ female with a 
history of hypertension that is had some intermittent mid 
anterior chest discomfort to the left arm and shoulder 
intermittent since yesterday am with some associated nausea this 
morning. No tearing sensation or pleuritic discomfort. No 
radiation to the abdomen. No known history of
diabetes or definite elevated cholesterol. Nonsmoker. Symptoms 
are not definitively exertional. She notes she currently had run 
out of her ACE inhibitor and has been without meds recently. No 
recent decrease in exercise capacity. She notes the discomfort 
is
improved but still there. It is not pleuritic. Notes last EKG 
over ___ years ago.
 
HPI Elements: 
-Onset: Hours ago; 
-Timing: Intermittent; 
-Location: anterior chest; 
-Quality: Aching; 
-Severity: maximum Moderate, now Mild; 
-Context: At Rest; 
-Exacerbated by: Nothing; 
-Alleviated by: Nothing 
-Associated symptoms: rad LUE."
 
Review of Systems: otherwise negative.

At ___, initial vitals were: T 98 HR 100 BP 220/120 RR 
30 O2Sat 94% on RA

EKG showed: 
-Rate: 92 bpm. 
-Rhythm Sinus Rhythm. 
-Intervals: Normal 
-QRS: IVCD 
-ST/T: elevtion inferior leads over 2mm, inf in V5 and V6, 
depressed in aVL, depressed anterior leads

Initial exam notable for:
-Acute distress;
-JVP unabloe to assess
-Lungs diffuse crackles with poor air movement
-No murmur.
-Pulses palpable, 
-Neuro: Awake, alert; No focal weakness

Labs notable for: 
WBC 13.6
Cr 0.6
Trop 0.41 
ABG: pH 7.35 / O2 372 / CO2 / HCO3 14

Studies notable for:
Patient was given:
- Lopressor 
- Heparin

Cardiology was consulted and agreed to take patient to Cath Lab. 
 Patient subsequently went into VT and received lidocaine 50mg. 
She converted and was awake throughout. She agreed to intubation 
and underwent RSI prior to Cath.

In the Cath lab, patient was noted to have triple vessel 
disease. The culprit lesion was determined to be the LCx, which 
was stented with a DES. However, patient became progressively 
hypotensive, pressors were increased and ultimately an IABP was 
placed for pressure support. 

On arrival to the CCU: patient was intubated, on pressors, with 
BPs in the ___. BPs continued to drop despite 4-pressor 
support. Bedside echo showed reaccumulation of pericardial 
effusion, with likely tamponade. Pulse was lost, and CPR was 
started, and a code Blue was called. Patient received multiple 
rounds of epinephrine, bicarb, calcium. A pericardiocentesis was 
performed bedside, with removal of ~150 cc serosanguinous fluid. 


REVIEW OF SYSTEMS:  as per HPI
 
Past Medical History:
1. CARDIAC RISK FACTORS   
- Hypertension   
2. CARDIAC HISTORY  
- coronaries: 
- pumping function: EF 50% 
- rhythm: NSR
3. OTHER PAST MEDICAL HISTORY 
 
Social History:
___
Family History:
unknown
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VS: reviewed in OMR.
Weight: 99 kg
GENERAL: Pale, elderly, intubated woman
HEENT: Normocephalic atraumatic.  Xanthelasma noted bilaterally. 
 
NECK: Supple. 
CARDIAC: Regular rate and rhythm initially, IABP in place with 
mechanical pulsations.  
LUNGS: Intubated, breath sounds bilaterally.
ABDOMEN: Obese.
EXTREMITIES: cold, pale, pulses not palpable.   
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM:
========================
No spontaneous movements were present. There was no response to
verbal or tactile stimuli. Pupils were mid-dilated and fixed. No
breath sounds were appreciated over either lung field. No 
carotid
pulses were palpable. No heart sounds were auscultated over
entire precordium.
 
Pertinent Results:
PERTINENT LABS:
===============
___ 08:49PM BLOOD WBC-21.7* RBC-3.67* Hgb-10.9* Hct-33.2* 
MCV-91 MCH-29.7 MCHC-32.8 RDW-14.7 RDWSD-48.9* Plt ___
___ 08:49PM BLOOD Neuts-84.8* Lymphs-8.5* Monos-4.5* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-18.33* AbsLymp-1.84 
AbsMono-0.98* AbsEos-0.01* AbsBaso-0.05
___ 08:49PM BLOOD Glucose-522* UreaN-16 Creat-0.8 Na-141 
K-3.3 Cl-104 HCO3-11* AnGap-25*
___ 08:49PM BLOOD CK-MB-223* cTropnT-5.82*
___ 08:49PM BLOOD Calcium-5.8* Phos-7.2* Mg-1.8
___ 08:54PM BLOOD Type-ART pO2-258* pCO2-26* pH-7.25* 
calTCO2-12* Base XS--14
___ 08:54PM BLOOD Lactate-11.8*

IMAGING:
=======
ECHO ___:
There is a large pericardial effusion. There is right 
ventricular diastolic collapse, consistent with impaired 
fillling/tamponade physiology. Later images on the 
echocardiography sequence shows the patient to be in asystole.

IMPRESSION: Large paricardial effusion with echocardiographic 
signs of tamponade. Patient is asystolic in later images in the 
echocardiography sequence.
 
Brief Hospital Course:
This is a ___ year old woman with a PMH of hypertension, who 
presented to ___ with chest pain, found to have 
inferoposterior STEMI s/p DES to LCx, course complicated by 
pre-procedural VT, intra-procedural cardiogenic shock requiring 
IABP placement, and post-procedural pericardial effusion s/p 
drainage, who was transferred to ___ for further 
management. Despite maximum pressor support, patient lost pulses 
and went into PEA arrest. CPR was initiated. Bedside US revealed 
reaccumulation of fluid around the heart with tamponade 
physiology. Daughter was contacted by cell phone. Patient was 
coded, given epi/bicarb/calcium/IVF, and pericardial fluid was 
drained bedside. ___ ECHO showed no return of electrical 
activity despite rescue shock and attempted external pacing. 
After 25 minutes of resuscitation, time of death was called at 
___.

# CODE:  full (presumed)
# CONTACT/HCP: ___, daughter, ___
 
Medications on Admission:
CITalOPRAM  20 mg PO DAILY 
Lisinopril  10 mg PO QAM 
Lidocaine  1 each TP DAILY  
Lisinopril 20 mg PO DAILY  
tiZANidine 2 mg PO TID 
 
Discharge Medications:
n/a
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
=================
1. STEMI
2. Pericaridial Tamponade
3. Cardiogenic Shock

 
Discharge Condition:
deceased
 
Discharge Instructions:
n/a
 
Followup Instructions:
___